US07504508B2
N-(4-chloro-2-methylphenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide was made following general procedure G, substituting 4-methoxybenzoyl chloride for 4-fluorobenzoyl chloride. The amine-aryl coupling was performed differently to what is described in procedure G. Therefore (2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-amine (obtained from the hydrogenation step, 500 mg, 1.5 mmol, 1 equ.) was dissolved in ethylene glycol dimethyl ether (5 mL) in a Schlenk tube. To this solution was added sequentially 2-bromo-5-chlorotoluene (400 mg, 1.95 mmol, 1.3 equ.), cesium carbonate (684 mg, 2.10 mmol, 1.4 equ.), palladium acetate (40 mg, 0.06 mmol, 0.04 equ.) and 2-(Dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1,1′-biphenyl (60 mg, 0.12 mmol, 0.08 equ.). The reaction mixture was flushed with nitrogen and heated to 90° C. in the Schlenk tube for 48 h. Reaction mixture was concentrated to leave a residue which was partitioned between water and ethyl acetate and extracted. The aqueous layer was separated and the organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give a black oil. The crude product was purified by silica gel chromatography (methylene chloride/methanol: 99/1) to provide (2S,4R)-N-(4-chloro-2-methylphenyl)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-amine (200 mg, 32%).

reactant | N-(4-chloro-2-methylphenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | ClC1=CC(=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C)C | C27H27ClN2O3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | (2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-amine | COC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N)C)C=C1 | C18H20N2O2
